US04171446
(2,5-Dimethyl-3-nitrophenyl)-benzyl ether
A mixture of 433 g. 2,5-dimethyl-3-nitrophenol, 360 g. potassium carbonate, 326 ml. benzyl chloride and 2 liters dimethyl formamide is stirred overnight at 50° C. The reaction mixture is then filtered with suction and the filtrate is evaporated to dryness in a vacuum. The residue is poured on to 4 liters of ice-water and, after suction filtration and drying in the air, there are obtained 668 g. of yellowish crystals; m.p. 66°-68° C.

reactant | 2,5-dimethyl-3-nitrophenol | CC1=C(C=C(C=C1[N+](=O)[O-])C)O | C8H9NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethyl formamide | 2 liters | CN(C=O)C | C3H7NO
product | (2,5-Dimethyl-3-nitrophenyl)-benzyl ether | CC1=C(C=C(C=C1[N+](=O)[O-])C)OCC1=CC=CC=C1 | C15H15NO3
